Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / heparin / sirolimus
 
Attending: ___
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo female w/ ___ s/p bilateral nephrectomy with Renal Tx 
___ (Sirolimus 1 mg PO DAILY, Tacrolimus 1.5 mg PO Q12H) who 
presents with profuse watery diarrhea. 

She was in her usual state of health until noon day of arrival 
when she developed multiple episodes of profuse watery diarrhea 
(about 12BMs) and 4 episodes of nbnb emesis. No abdominal pain. 
Also had minimal and dark urine output. She also reports chills 
but denies any fever. Transplant team rec'd that she go to the 
ED for rehydration and assessment of ___. She works at ___ 
___ as orthopedic ___ where they now have or are soon 
expecting norovirus. No recent abx use.

No recent changes to her immunosuppression regimen, specifically 
tacro.

On arrival she was found to have Cr 1.3 (baseline 1.0 though has 
been up to 1.3 in the past), and bicarb of 19. In ED rcvd 1L IVF 
followed by self intake of up to 10 glasses of water with 
improvement in urine output. She had a renal u/s transplant 
protocol which was normal. She had a UA which was not suggestive 
of infection. Lipase normal. LFTs normal. 

Multiple stool studies ordered. Tacro level ordered and pending. 
CMV data ordered and pending.

She has a h/o HIT so Fondaparinaux used instead of HSQ
 
Please see nightfloat admission note for home medications, 
allergies, FH, and SH, which I have confirmed with the patient.  


When I saw her this morning she tells me that she drank "a lot" 
of water over night. Keeping it all down. Would like to try a 
regular diet today. Feels like herself.
 
Past Medical History:
 ___ s/p renal transplant ___ at ___
Hx of HIT  
hypothyroidism
HTN
HLD
GERD
Squamous Cell Cancer of Skin
 
Social History:
___
Family History:
Multiple family members with ___
 
Physical Exam:
ADMIT:
Vitals: 98.1PO 121 / 76 86 18 96 RA   
General: Alert, oriented, no acute distress  
HEENT: NO pallor. no icterus. conjuctiva and sclera clear  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present  
Ext:no clubbing, cyanosis or edema;  
NEURO: No focal deficits. normal speech  

DISCHARGE:

VITALS:  98.5, 114/73, hr 80, 95%RA 
- urine output not recorded, 1.7 intake including 1L IVF
GENERAL: Awake this morning watching TV. In good spirits asking 
when she can leave.
HEENT: Moist mucosa. Normal conjunctiva. 
RESP: Clear to auscultation bilaterally, no adventitious sounds.
CV: Regular rate and rhythm about 70. No extra sounds.
ABD: Non tender, +BS quiet, soft.
GU: no foley  
EXT: warm, well perfused, no edema.  
NEURO, speech is clear, appropriate spontaneous motor function. 
SKIN: Likely early cSCC of forehead otherwise examined skin with 
photodistributed lentigines
 
Pertinent Results:
ADMIT:

___ 05:00PM BLOOD WBC-7.4 RBC-4.29 Hgb-12.3 Hct-38.3 MCV-89 
MCH-28.7 MCHC-32.1 RDW-14.8 RDWSD-48.6* Plt ___
___ 05:00PM BLOOD Glucose-130* UreaN-34* Creat-1.3* Na-140 
K-4.7 Cl-102 HCO3-19* AnGap-24*
___ 05:00PM BLOOD ALT-19 AST-21 AlkPhos-88 TotBili-0.9
___ 05:00PM BLOOD Lipase-38

MICRO
--> NOROVIRUS POSITIVE

--> CMV IgG +   CMV IgM +
DISCHARGE

___ 06:36AM BLOOD Glucose-95 UreaN-21* Creat-1.2* Na-139 
K-4.7 Cl-103 HCO3-25 AnGap-16
___ 09:41AM BLOOD rapmycn-4.3*
___ 06:36AM BLOOD tacroFK-7.___ year old woman s/p bilateral nephrectomy with kidney 
transplant ___ now p/w watery diarrhea and vomiting since ___ 
AM, admitted for inability to maintain PO intake.  

BRIEF:
- Given her immunosuppression she was admitted for infectious 
work up and IV hydration.  Her symptoms quickly improved and no 
diarrhea for 12 hours before discharge. No fevers/chills since 
admisison, no myalgias or other concering sx... NOROVIRUS PC 
POSTIVE 

After discharge CMV IgG and IgM positive.... VL could not be 
done because blood sample that was sent, was insufficient, which 
I did not know about until after discharge... All team members 
were notified by email

BY PROBLEM:

# Norovirus + PCR
# Diarrhea/vomiting:  
# Now s/p 1L IVF in ED and 1L Bicarb on the floor. Has tolerated 
>10 glasses of water, symptomatically improved as well.  No evid 
of pancreatitis, UA normal, no changes in tacro dosing recently.

# ___, diminished UOP, Pre-renal: Baseline creatinine 1.0-1.2, 
Cr 1.3 on arrival. Hypovolemia from diarrhea/vomiting. Received 
1LNS in the ED and 1L Bicarb on ___
-- Cr 1.2 on discharge after 2L IVF

CHRONIC ISSUES  
 # ___ s/p renal transplant: normal renal transplant  
 - continue tacrolimus 1.5 mg BID  (based on level today)
 - continue sirolimus 1 mg daily  
 - daily tacro levels  
 - touch base with renal transplant team in the AM  

 # Hx of HIT  
 - fondaparinux for PPX  

 # hypothyroidism  
 - continue levothyroxine 100 mcg daily  

 # HTN:  
 - Hold lisinopril given ___  
 - trend BPs  

 # HLD  
 - continue pravastatin 20 mg daily  

 # GERD  
 - continue pantoprazole 40 mg daily  

 # insomnia  
 - clonazepam 0.5 mg QHS prn insomnia  

 # Health maintenance  
 - continue ASA 81 mg daily  
 - continue vitamin D 2000u daily  
 - continue multivitamin daily  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tacrolimus 1.5 mg PO Q12H 
2. ClonazePAM 0.5 mg PO QHS:PRN insomnia 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Pravastatin 20 mg PO QPM 
7. Sirolimus 1 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  ClonazePAM 0.5 mg PO QHS:PRN insomnia  
3.  Levothyroxine Sodium 100 mcg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  Pantoprazole 40 mg PO Q24H  
6.  Pravastatin 20 mg PO QPM  
7.  Sirolimus 1 mg PO DAILY 
Daily dose to be administered at 6am  
8.  Tacrolimus 1.5 mg PO Q12H  
9.  Vitamin D ___ UNIT PO DAILY  
10. HELD- Lisinopril 20 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until Transplant follow up

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Norovirus
Diarrhea
Vomiting
Renal Transplant on immunosuppression 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

You were admitted to ___ due to diarrhea and vomiting. This 
was found to be due to a Norovirus infection. We gave you fluids 
through the vein and your diarrhea improved. 

Please continue to eat a diet with Bananas, Rice, Apple Sauces, 
Toast, Yogurt.

Best Wishes,
___ Team
 
Followup Instructions:
___